$$$$ test 1 for assignemnt 1
 
* test a 2D resistor 2X2 "mesh"

Vs 11 0 1V
Ve 22 0 0V

R1  11 12 1K
R2  11 21 1K
R3  12 22 1K
R4  21 22 1K

.op

.END
