$$$$ test 1 for assignemnt 1
 
* test a 2D resistor 2X2 "mesh" with additional resistors at both ends

Vs1 11v 0 1V
Vs2 11 0 2V
Ve 22  0 0V

Rs 11v 11 2K

R1  11 12 1K
R2  11 21 1K
R3  12 22 1K
R4  21 22 1K

.op

.END
